US03976778
A mixture of 34,4 g ethylene urea and 54,2 g N,N-diethylcarbamyl chloride is heated under nitrogen at 110° for 3 hrs. The reaction mixture is cooled and diluted with 200 ml acetone. It is filtered and the filtrate evaporated off to dryness. The oily product is chromatographed on a column of 450 g of silica gel. The fraction which eluted from 3% methanol in chloroform yields 1-(N,N-diethylcarbamoyl)-2-oxo-tetrahydroimidazole as a colourless oil.

reactant | ethylene urea | 34,4 g | C1CNC(=O)N1 | C3H6N2O
reactant | N,N-diethylcarbamyl chloride | 54,2 g | C(C)N(C(=O)Cl)CC | C5H10ClNO
solvent | acetone | 200 ml | CC(=O)C | C3H6O
product | 1-(N,N-diethylcarbamoyl)-2-oxo-tetrahydroimidazole | C(C)N(C(=O)N1C(NCC1)=O)CC | C8H15N3O2
